US06762320B2
b) N-[4-(3-Fluoro-benzyloxy)-phenyl]-2,2-dimethyl-malonamide
The title compound is prepared in analogy to example 3 from N-[4-(3-fluoro-benzyloxy)-phenyl]-2,2-dimethyl-malonamic acid ethyl ester and ammonium hydroxide. Colorless solid. MS: m/e=331.4 (M++H).

reactant | N-[4-(3-fluoro-benzyloxy)-phenyl]-2,2-dimethyl-malonamic acid ethyl ester | C(C)OC(C(C(=O)NC1=CC=C(C=C1)OCC1=CC(=CC=C1)F)(C)C)=O | C20H22FNO4
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[4-(3-Fluoro-benzyloxy)-phenyl]-2,2-dimethyl-malonamide | FC=1C=C(COC2=CC=C(C=C2)NC(C(C(=O)N)(C)C)=O)C=CC1 | C18H19FN2O3
